US04245036
A solution of 57 g of allylamine and 136 g of butanesultone in 1 l of methanol was stirred a room temperature for 48 h. After evaporation, washing of the residue with ether and drying under vacuum, 70 g of N-allyl-aminobutane sulphonic acid were obtained.

reactant | allylamine | 57 g | C(C=C)N | C3H7N
reactant | butanesultone | 136 g | C1CCCOS1(=O)=O | C4H8O3S
solvent | methanol | 1 l | CO | CH4O
product | N-allyl-aminobutane sulphonic acid | 70 g | C(C=C)NC(CCC)S(=O)(=O)O | C7H15NO3S
